* NGSPICE file created from ip_row_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor4_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor4_1 A1 A2 A3 A4 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dlya_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dlya_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

.subckt ip_row_mux A[0] A[1] A[2] A[3] VDD VSS Y[0] Y[10] Y[11] Y[12] Y[13] Y[14]
+ Y[15] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6] Y[7] Y[8] Y[9]
Xoutput7 _23_/ZN Y[11] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput20 _21_/ZN Y[9] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput8 _24_/ZN Y[12] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput10 _26_/ZN Y[14] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput9 _25_/ZN Y[13] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput11 _27_/ZN Y[15] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_91 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput12 _11_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput13 _12_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
X_27_ _27_/A1 _27_/A2 _27_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_26_ _26_/A1 _26_/A2 _26_/A3 _27_/A1 _26_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput14 _14_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput15 _15_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_25_ _25_/A1 _25_/A2 _26_/A3 _27_/A1 _25_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_09_ _09_/I _27_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_08_ _08_/I _26_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xoutput16 _16_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput17 _17_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
X_07_ _07_/I _25_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_24_ _06_/I _07_/I _26_/A3 _27_/A1 _24_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_23_ _08_/I _27_/A1 _23_/A3 _23_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_06_ _06_/I _26_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xoutput18 _19_/ZN Y[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_0_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_1_87 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_76 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_22_ _26_/A1 _07_/I _08_/I _27_/A1 _22_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
Xoutput19 _20_/ZN Y[8] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xfanout21 _25_/A1 _06_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlya_1
X_21_ _06_/I _25_/A2 _08_/I _27_/A1 _21_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XTAP_TAPCELL_ROW_3_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput1 A[0] _26_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xfanout22 _26_/A2 _07_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlya_1
XFILLER_1_68 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_20_ _06_/I _07_/I _08_/I _27_/A1 _20_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XTAP_TAPCELL_ROW_3_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput2 A[1] _25_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput3 A[2] _08_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput4 A[3] _09_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_83 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_2_71 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_41 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_87 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_1_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_19_ _09_/I _27_/A2 _19_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_18_ _06_/I _07_/I _08_/I _27_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
XFILLER_2_56 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_17_ _26_/A1 _07_/I _26_/A3 _09_/I _17_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_80 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_16_ _06_/I _25_/A2 _26_/A3 _09_/I _16_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_15_ _06_/I _07_/I _26_/A3 _09_/I _15_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_28 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_14_ _08_/I _09_/I _23_/A3 _14_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_13_ _06_/I _07_/I _23_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_12_ _26_/A1 _07_/I _08_/I _09_/I _12_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_63 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_0_30 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_11_ _06_/I _25_/A2 _08_/I _09_/I _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_10_ _06_/I _07_/I _08_/I _09_/I _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_3_97 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_64 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_44 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XTAP_TAPCELL_ROW_2_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xoutput5 _10_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput6 _22_/ZN Y[10] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_0_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
.ends

